US09120749B2
1-(6-(3,5-dichloro-4-hydroxyphenyl)-4-((trans-4-((dimethylamino)methyl)cyclohexyl)amino)quinolin-3-yl)ethanone
Following general procedure D, 1-(6-bromo-4-((trans-4-((dimethylamino)methyl)cyclohexyl)amino)quinolin-3-yl)ethanone (32 mg, 0.079 mmol) was reacted with 2,6-dichloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (51 mg, 0.176 mmol) to afford the desired product (24.5 mg, 64%) as a yellow solid. 1H NMR (500 MHz, MeOD) δ 8.93 (s, 1H), 8.34 (d, J=2.0 Hz, 2H), 7.99 (dd, J=8.7, 2.0 Hz, 1H), 7.89 (d, J=8.7 Hz, 1H), 7.62 (s, 2H), 4.27-4.20 (m, 1H), 2.80-2.74 (d, J=6.9 Hz, 2H), 2.71-2.63 (m, 9H), 2.37 (d, J=12.8 Hz, 2H), 1.99 (d, J=13.2 Hz, 2H), 1.89-1.85 (m, 1H), 1.70-1.58 (m, 2H), 1.33-1.21 (m, 2H). ESI MS m/z 486 [C26H29Cl2N3O2+H]+; HPLC 97.9% (AUC), tR=10.81 min.

reactant | 1-(6-bromo-4-((trans-4-((dimethylamino)methyl)cyclohexyl)amino)quinolin-3-yl)ethanone | 0.079 mmol, 32 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(C)=O)N[C@@H]1CC[C@H](CC1)CN(C)C | C20H26BrN3O
reactant | 2,6-dichloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 0.176 mmol, 51 mg | ClC1=C(C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)Cl)O | C12H15BCl2O3
product | 1-(6-(3,5-dichloro-4-hydroxyphenyl)-4-((trans-4-((dimethylamino)methyl)cyclohexyl)amino)quinolin-3-yl)ethanone | 24.5 mg, 64% | ClC=1C=C(C=C(C1O)Cl)C=1C=C2C(=C(C=NC2=CC1)C(C)=O)N[C@@H]1CC[C@H](CC1)CN(C)C | C26H29Cl2N3O2
